US06509344B1
3,4,5-Trimethoxybenzylidenemethylamine (11i)
3,4,5-Trimethoxybenzaldehyde (7.81-40.0 mmol) and a 40% aqueous solution of methylamine (20 mL) were stirred at room temperature for 2.5 h. The mixture was extracted with ether (4×75 mL), the ether layers were combined, and the solution washed with saturated aqueous sodium chloride (75 mL), dried (MgSO4), and concentrated under reduced pressure to give a colorless oil (7.94 g, 95%): IR (neat) 2940, 2840, 1646, 1576, 1500, 1453, 1407, 1369, 1323, 1230, 1115, 1013 cm−1; 1H NMR (CDCl3, 300 MHz) δ8.18 (d, 1H, J=1.3 Hz), 6.95 (s, 2H), 3.89 (s, 6H), 3.87 (s, 3H), 3.50 (d, 3H, J=1.3 Hz); CIMS m/z (relative intensity) 210 (MH+, 100). Anal. Calcd for C11H15NO3: C, H, N.

reactant | 3,4,5-Trimethoxybenzaldehyde | 7.81-40.0 mmol | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | methylamine | 20 mL | CN | CH5N
product | 3,4,5-Trimethoxybenzylidenemethylamine | 7.94 g, 95% | COC=1C=C(C=CN)C=C(C1OC)OC | C11H15NO3
